US08735584B2
1-Chloro-8-hydroxy-5H-benzo[c][1,8]naphthyridin-6-one (217)
The title compound was synthesized according to the procedure described for the preparation of Example 1 using 4-chloro-3-iodopyridin-2-amine (500 mg, 1.96 mmol) and 2-methoxycarbonyl-4-hydroxy-phenylboronic acid (765 mg, 2.75 mmol) to provide 217 (83 mg, 17% yield) as a white solid. LC-MS (M+H=247, obsd.=247).

reactant | 4-chloro-3-iodopyridin-2-amine | 1.96 mmol, 500 mg | ClC1=C(C(=NC=C1)N)I | C5H4ClIN2
reactant | 2-methoxycarbonyl-4-hydroxy-phenylboronic acid | 2.75 mmol, 765 mg | COC(=O)C1=C(C=CC(=C1)O)B(O)O | C8H9BO5
product | 1-Chloro-8-hydroxy-5H-benzo[c][1,8]naphthyridin-6-one | 83 mg, 17% yield | ClC1=C2C3=C(C(NC2=NC=C1)=O)C=C(C=C3)O | C12H7ClN2O2
